US08470847B2
10.9 mg of potassium carbonate (0.08 mmol) are added to a solution of 1.67 g of (±)-2-cyclopropyl-1-methoxy-4-(trimethylsilyl)but-3-yn-2-ol (7.86 mmol) in methanol, and the mixture is stirred overnight at ambient temperature. The methanol is evaporated off and the residue is taken up with an ethyl acetate/water mixture. The product is extracted 3 times with ethyl acetate and the organic phases are then combined, dried over sodium sulphate, filtered, and concentrated under vacuum. 0.434 g of (±)-2-cyclopropyl-1-methoxybut-3-yn-2-ol is obtained in the form of an oil used without subsequent purification (crude yield=40%).

reactant | potassium carbonate | 0.08 mmol, 10.9 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (±)-2-cyclopropyl-1-methoxy-4-(trimethylsilyl)but-3-yn-2-ol | 7.86 mmol, 1.67 g | C1(CC1)C(COC)(C#C[Si](C)(C)C)O | C11H20O2Si
solvent | methanol | CO | CH4O
product | (±)-2-cyclopropyl-1-methoxybut-3-yn-2-ol | 0.434 g | C1(CC1)C(COC)(C#C)O | C8H12O2
